US07902194B2
Chlorosulfonic acid (17 mL) was added dropwise to 1-bromo-3-(2-bromo-ethyl)-benzene (5 g, 19 mmol) at 0° C. The mixture was stirred at 0° C. for 1 h then an additional 3 h at rt. The mixture was poured into an ice-water slowly and extracted with methylene chloride, and the combined organic layers were evaporated under reduced pressure to give 4.3 g of crude 4-Bromo-2-(2-bromo-ethyl)-benzenesulfonyl chloride which was used directly for next reaction. MS (ESI) 342.9 (M-Cl+OH)−.

reactant | Chlorosulfonic acid | 17 mL | ClS(=O)(=O)O | ClHO3S
reactant | 1-bromo-3-(2-bromo-ethyl)-benzene | 19 mmol, 5 g | BrC1=CC(=CC=C1)CCBr | C8H8Br2
product | 4-Bromo-2-(2-bromo-ethyl)-benzenesulfonyl chloride | 4.3 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)CCBr | C8H7Br2ClO2S
